US07985769B2
A solution of the 3-Methyl-cyclopent-3-enecarboxylic acid ethyl ester (255 mg, 1.65 mmol) in MeOH (4.0 mL) and 10% aq. NaOH (3.3 mL, 8.25 mmol) was heated at 50° C. for 16 h, reaction mixture was cooled to room temperature, solvent was evaporated, diluted with water. The aqueous solution was washed with ether, and acidified with aq. 1 N HCl, extracted with ether. The ethereal solution was washed with brine and dried. Evaporation of the solvent furnished the 3-Methyl-cyclopent-3-enecarboxylic acid (200 mg, 97% yield). 1H NMR (CDCl3, 400 MHz), 5.27 (brs, 1H), 3.26-3.17 (m, 1H), 2.7-2.55 (m, 4H), 1.74 (s; 3H).

reactant | 3-Methyl-cyclopent-3-enecarboxylic acid ethyl ester | 1.65 mmol, 255 mg | C(C)OC(=O)C1CC(=CC1)C | C9H14O2
reactant | NaOH | 8.25 mmol, 3.3 mL | [OH-].[Na+]
solvent | MeOH | 4.0 mL | CO | CH4O
product | 3-Methyl-cyclopent-3-enecarboxylic acid | 200 mg, 97% yield | CC=1CC(CC1)C(=O)O | C7H10O2
